data/oMe_Silver.jsonl
{"reaction_id": "NR-241_1-c1ccc(OC)cc1_2-C(C)(C)C_3-C(C(F)(F)F)C(F)(F)F_4-CC(Cl)(Cl)Cl","level": "medium","name": "Still-Gennari Reaction","reactants_smiles": ["c1ccc(OC)cc1C(=O)[H]","C(C)(C)COC(=O)CP(=O)(OC(C(F)(F)F)C(F)(F)F)(OCC(Cl)(Cl)Cl)","[N-]([Si](C)(C)C)[Si](C)(C)C"],"products_smiles": ["c1ccc(OC)cc1/C=C\\C(=O)OC(C)(C)C"],"conditions": "","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(C)COC(=O)[CH-]P(=O)(OC(C(F)(F)F)C(F)(F)F)(OCC(Cl)(Cl)Cl)","step_weight": 0,"rationale": "The strong, non-nucleophilic base removes the acidic α-proton next to the phosphonate, stabilized by electron-withdrawing ester and phosphoryl groups via resonance and inductive effects."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C)(C)COC(=O)C(P(=O)(OC(C(F)(F)F)C(F)(F)F)(OCC(Cl)(Cl)Cl))C([O-])c1ccc(OC)cc1","step_weight": 0,"rationale": "The nucleophilic carbanion attacks the electrophilic carbonyl carbon of the aldehyde, driven by the strong polarization of the C=O bond and minimal steric hindrance."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C)(C)COC(=O)C1C(c1ccc(OC)cc1)OP1([O-])(OC(C(F)(F)F)C(F)(F)F)(OCC(Cl)(Cl)Cl)","step_weight": 0,"rationale": "Intramolecular cyclization to the oxaphosphetane is favored due to proximity effects and stabilization from the phosphoryl oxygen, locking in the (Z)-geometry."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccc(OC)cc1/C=C\\C(=O)OC(C)(C)C","step_weight": 0,"rationale": "Collapse of the oxaphosphetane eliminates the phosphate group, a good leaving group stabilized by resonance, to form the thermodynamically favored (Z)-alkene ester."}],"description": "A strong, non-nucleophilic base deprotonates the electron-withdrawing phosphonate to form a stabilized carbanion, which adds to the aldehyde. Rapid cyclization to an oxaphosphetane intermediate ensures (Z)-selectivity, followed by elimination of the phosphate to yield the (Z)-alkene ester."}
{"reaction_id": "NR-106_1-COc1ccccc1_2-c1occc1_3-c1sccc1_4-c1ccccc1C","level": "medium","name": "Henry Reaction","reactants_smiles": ["C(COc1ccccc1)(c1occc1)[N+](=O)[O-]","C(c1sccc1)(c1ccccc1C)=O","[OH-]"],"products_smiles": ["C(c1sccc1)(c1ccccc1C)(O)C(COc1ccccc1)(c1occc1)[N+](=O)[O-]"],"conditions": "Base","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(COc1ccccc1)(c1occc1)=[N+]([O-])[O-]","step_weight": 0,"rationale": "The base abstracts the acidic α-proton next to the nitro group, as the resulting nitronate anion is resonance-stabilized by delocalization onto the electron-withdrawing nitro group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1sccc1)(c1ccccc1C)([O-])C(COc1ccccc1)(c1occc1)[N+](=O)[O-]","step_weight": 0,"rationale": "The nucleophilic nitronate carbon attacks the electrophilic carbonyl carbon, favored by the strong polarization of the C=O bond and minimal steric hindrance at the carbonyl center."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1sccc1)(c1ccccc1C)(O)C(COc1ccccc1)(c1occc1)[N+](=O)[O-]","step_weight": 0,"rationale": "The alkoxide intermediate is protonated by solvent or conjugate acid, driven by the strong thermodynamic preference for neutral alcohol formation."}],"description": "Under basic conditions, the α-proton of the nitroalkane is deprotonated to form a resonance-stabilized nitronate anion, which then nucleophilically attacks the carbonyl carbon of the aldehyde/ketone. Subsequent protonation of the alkoxide yields the β-nitro alcohol product."}
